US04544501
In a similar manner 0.16 moles of triethylamine, 0.05 moles of PSBr3 and 150 milliliters of dried tetrahydrofuran are combined in a 250 milliliter round bottom flask which is thereafter treated with a first solution containing 0.10 moles of 2,2-dimethylaziridine in 20 milliliters of THF and a second solution containing 0.16 moles of dimethylamine in 25 millimeters of dried THF, to produce a slurry which after filtration, concentration of the filtrate and vacuum distillation affords about 65% yield of P,P-bis(2,2-dimethyl-1-aziridinyl)-N,N-dimethylthiophosphinic amide.

reactant | triethylamine | 0.16 moles | C(C)N(CC)CC | C6H15N
reactant | PSBr3 | 0.05 moles | P(=S)(Br)(Br)Br | Br3PS
reactant | 2,2-dimethylaziridine | 0.10 moles | CC1(NC1)C | C4H9N
reactant | dimethylamine | 0.16 moles | CNC | C2H7N
reactant | THF | 20 milliliters | C1CCOC1 | C4H8O
reactant | tetrahydrofuran | 150 milliliters | O1CCCC1 | C4H8O
product | P,P-bis(2,2-dimethyl-1-aziridinyl)-N,N-dimethylthiophosphinic amide | about 65% yield | CC1(N(C1)P(N(C)C)(=S)N1C(C1)(C)C)C | C10H22N3PS
